US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline-8-carboxamide (191 mg, 0.52 mmol) in DCM (8 mL) at 0° C. was added 3-chloroperbenzoic acid (70%, 192 mg, 0.78 mmol) and the mixture was stirred for 90 min. The mixture was diluted with DCM and then aq sodium thiosulfate was added, followed by addition of saturated aq sodium bicarbonate. The organic layer was dried over sodium sulfate and concentrated under reduced pressure. To the residue were added THF (5 mL) and 5-methyl-1H-pyrazol-3-amine (153 mg, 1.58 mmol) and the mixture was stirred at rt for 15 min. The mixture was concentrated under reduced pressure and purified by preparative HPLC (Varian diphenyl reverse phase column, eluted with gradient of solvent B=0.05% AcOH/ACN and solvent A=5% ACN/0.05% AcOH/H2O) to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxamide (108 mg, 50%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.20 (s, 3H) 6.08 (s, 1H) 7.76 (t, J=7.82 Hz, 1H) 7.92 (d, J=3.39 Hz, 1H) 7.98-8.11 (m, 2H) 8.58-8.75 (m, 2H) 8.89 (d, J=7.54 Hz, 1H) 9.91 (d, J=3.20 Hz, 1H) 10.80-11.38 (m, 1H) 12.17 (br s, 1H); LC-MS (ESI) m/z 414 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazoline-8-carboxamide | 0.52 mmol, 191 mg | FC(C1=NC2=C(C=CC=C2C(=N1)SC)C(=O)N)(C1=NC=C(C=C1)F)F | C16H11F3N4OS
reactant | 3-chloroperbenzoic acid | 0.78 mmol, 192 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 5-methyl-1H-pyrazol-3-amine | 1.58 mmol, 153 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazoline-8-carboxamide | 108 mg, 50% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)C(=O)N)(C1=NC=C(C=C1)F)F | C19H14F3N7O
